US08207168B2
A solution of 6-[3,5-difluoro-4-(piperidin-4-yloxy)-phenyl]-4,5-dihydro-2H-pyridazin-3-one (350 mg, 1.1 mmol) in a mixture of DMF (2 mL) and MeOH (9 mL) was stirred under argon. Cyclobutanone (0.38 mL, 5 mmol), sodium cyanoborohydride (0.53 g, 8.45 mmol) and acetic acid (0.4 mL, 7 mmol) were added sequentially and stirred at 60° C. for 3 h. The reaction mixture was concentrated at reduced pressure and partitioned between aqueous 1M sodium carbonate solution and methylene chloride. The aqueous layer was extracted twice with methylene chloride and the combined organics was washed with brine, dried (Na2SO4), filtered and concentrated to provide a crude product. The crude product was purified by ISCO (40 g) chromatography using 2 to 5% methanol in methylene chloride to 10% methanol containing 0.2% ammonium hydroxide in methylene chloride. The recovered product was dissolved in methylene chloride and washed with saturated aqueous sodium bicarbonate solution, brine, dried (Na2SO4), filtered, and concentrated to furnish a pure product. The pure product was crystallized with a mixture of methylene chloride, ethanol, ether and hexane to obtain 6-[4-(1-cyclobutyl-piperidin-4-yloxy)-3,5-difluoro-phenyl]-4,5-dihydro-2H-pyridazin-3-one (110 mg, yield), mp 162-164° C.; MS m/z 364 (M+H)

reactant | 6-[3,5-difluoro-4-(piperidin-4-yloxy)-phenyl]-4,5-dihydro-2H-pyridazin-3-one | 1.1 mmol, 350 mg | FC=1C=C(C=C(C1OC1CCNCC1)F)C=1CCC(NN1)=O | C15H17F2N3O2
reactant | Cyclobutanone | 5 mmol, 0.38 mL | C1(CCC1)=O | C4H6O
reactant | sodium cyanoborohydride | 8.45 mmol, 0.53 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 7 mmol, 0.4 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 9 mL | CO | CH4O
product | 6-[4-(1-cyclobutyl-piperidin-4-yloxy)-3,5-difluoro-phenyl]-4,5-dihydro-2H-pyridazin-3-one | 110 mg | C1(CCC1)N1CCC(CC1)OC1=C(C=C(C=C1F)C=1CCC(NN1)=O)F | C19H23F2N3O2
